US06734179B2
[4-Methoxy-7-(tetrahydro-pyran-2-yl)-benzothiazol-2-yl]-carbamic acid methyl ester
From [7-(5,6-dihydro-4H-pyran-2-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester by hydrogenation with palladium on charcoal in dichloromethane, methanol and triethylamine. ES-MS m/e (%): 323 (M+H+, 100).

reactant | [7-(5,6-dihydro-4H-pyran-2-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2C=2OCCCC2)OC)=O | C15H16N2O4S
catalyst | palladium on charcoal | [Pd] | Pd
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | [4-Methoxy-7-(tetrahydro-pyran-2-yl)-benzothiazol-2-yl]-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2C2OCCCC2)OC)=O | C15H18N2O4S
